US03978121
A. 3-chloro-5-(3-acetamidopropyl)-5H-dibenzo[a,d]cycloheptene
3-Chloro-5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene is dissolved in acetic anhydride and the solution heated to refluxing for 20 minutes. The solution then is cooled and poured into a large volume of water. The mixture is stirred until the excess reagent is hydrolyzed. The product then is extracted into ether, the extract washed with sodium bicarbonate solution, followed by washing with water and dried over sodium sulfate. The product is isolated by evaporating the ether.

reactant | 3-Chloro-5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)CCCN)C1 | C18H18ClN
reactant | water | O | H2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-chloro-5-(3-acetamidopropyl)-5H-dibenzo[a,d]cycloheptene | ClC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)CCCNC(C)=O)C1 | C20H20ClNO
